US03966916
Preparation of N(6)-But-2-enyl-N(6)-(2,5-dimethylbenzyl)-adenosine
10 g. Triacetyl-6-chloro-9-(β-D-ribofuranosyl)-purine, 5.7 g. N-but-2-enyl-(2,5-dimethylbenzyl)-amine and 2.5 g. triethylamine were heated under reflux for 1 hour in 150 ml. isopropanol. Subsequently, the solvent was removed in a vacuum and the residue taken up in chloroform. The chloroform phase was washed several times with water, dried and evaporated. The syrupy residue was dissolved in 150 ml. methanol and the solution mixed with 5 ml. 1N sodium methylate solution and then boiled for 10 minutes. Thereafter, the methanol was replaced by ethyl acetate and the ethyl acetate solution washed two or three times with water. After drying and evaporating the solution, the residue was recrystallized twice from 100 ml. methanol/water (1:1), with the addition of active charcoal. There were finally obtained 5.9 g. (56% of theory) N(6)-but-2-enyl-N(6)-(2,5-dimethylbenzyl)-adenosine, which had a melting point of 125°-127°C.

reactant | Triacetyl-6-chloro-9-(β-D-ribofuranosyl)-purine | C(C)(=O)N1CN(C2N(CN(C(=C12)Cl)C(C)=O)C(C)=O)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO | C16H23ClN4O7
reactant | N-but-2-enyl-(2,5-dimethylbenzyl)-amine | C(C=CC)NCC1=C(C=CC(=C1)C)C | C13H19N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | isopropanol | C(C)(C)O | C3H8O
product | N(6)-But-2-enyl-N(6)-(2,5-dimethylbenzyl)-adenosine | C(C=CC)N(C=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1)CC1=C(C=CC(=C1)C)C | C23H29N5O4
